US06498172B1
(3-Formyl-phenoxy)-acetic acid tert-butyl ester.
To a solution of 3-hydroxybenzaldehyde (5.00 g, 40.9 mmol) in DMF (40 mL) was added 1M potassium tert-butoxide in tert-butanol (40.9 mL, 40.9 mmol). The reaction was stirred for 2 minutes and tert-butyl bromoacetate (6.61 mL, 40.9 mmol) was added. The reaction was stirred for 1 hour and was quenched with 200 mL water. The product was extracted into EtOAc and the organic solution was washed with water, dried over MgSO4, filtered, and concentrated in vacuo. Purification via flash chromatography on silica gel (9:1 hexanes:EtOAc) afforded the title compound of Step A as a clear oil (3.53 g). 1H NMR (400 MHz, CDCl3) δ 9.94 (s, 1H), 7.48 (m, 2H), 7.32 (s, 1H), 7.21 (m, 1H), 4.56 (s, 2H), 1.45 (s, 9H).

reactant | 3-hydroxybenzaldehyde | 40.9 mmol, 5.00 g | OC=1C=C(C=O)C=CC1 | C7H6O2
reactant | potassium tert-butoxide | 1M | CC(C)([O-])C.[K+]
reactant | tert-butanol | 40.9 mmol, 40.9 mL | C(C)(C)(C)O | C4H10O
reactant | tert-butyl bromoacetate | 40.9 mmol, 6.61 mL | BrCC(=O)OC(C)(C)C | C6H11BrO2
solvent | DMF | 40 mL | CN(C)C=O | C3H7NO
product | (3-Formyl-phenoxy)-acetic acid tert-butyl ester | 3.53 g | C(C)(C)(C)OC(COC1=CC(=CC=C1)C=O)=O | C13H16O4
